************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_sighold
* View name: schematic
.subckt sg13g2_sighold SH VDD VSS
XN1 net1 SH VSS VSS sg13_lv_nmos w=300.0n l=130.00n ng=1 ad=1.02e-13 as=1.02e-13 pd=1.28e-06 ps=1.28e-06 m=1
XN0 SH net1 VSS VSS sg13_lv_nmos w=300.0n l=700.0n ng=1 ad=1.02e-13 as=1.02e-13 pd=1.28e-06 ps=1.28e-06 m=1
XP1 net1 SH VDD VDD sg13_lv_pmos w=450.00n l=130.00n ng=1 ad=1.53e-13 as=1.53e-13 pd=1.58e-06 ps=1.58e-06 m=1
XP0 SH net1 VDD VDD sg13_lv_pmos w=300.0n l=700.0n ng=1 ad=1.02e-13 as=1.02e-13 pd=1.28e-06 ps=1.28e-06 m=1
.ends
* End of subcircuit definition.
